US08791134B2
1-Methyl-4-nitrosopiperidin-4-yl acetate was prepared from 1-methyl-piperidin-4-one oxime and lead tetraacetate using conditions of General Method 2. 1H NMR (400 MHz, chloroform-d) δ2.86-2.91 (2H, m), 2.36 (3H, s), 2.29 (2H, s), 2.27 (2H, t, 2.2 Hz), 2.22 (3H, s), 1.85-1.91 (2H, m).

reactant | 1-methyl-piperidin-4-one oxime | CN1CCC(CC1)=NO | C6H12N2O
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
product | 1-Methyl-4-nitrosopiperidin-4-yl acetate | C(C)(=O)OC1(CCN(CC1)C)N=O | C8H14N2O3
